US07053107B2
2-[3-[2-(4,6-Dimethyl-pyridin-2-yl)-vinyl]-1-(tetrahydro-pyran-2-yl)-1H-indazol-6-ylamino]-benzoic acid
To a stirred solution of 2-[3-[2-(4,6-Dimethyl-pyridin-2-yl)-vinyl]-1-(tetrahydro-pyran-2-yl)-1H-indazol-6-ylamino]-benzoic acid methyl ester (1.98 g, 4.11 mmol) in THF:MeOH (12 ml, 3:1) was added Potassium hydroxide (1.15 g, 20.5 mmol) dissolved in H2O (3 ml). The reaction was heated at 70° C. for 2 hr, cooled, concentrated under reduced pressure to about 5 ml and diluted with more water. The solution was neutralized with 2N HCl and the precipitate was collected by filtration and washed with water to give 2.00 g (quantitative) of a bright yellow solid. 1H NMR (DSMO-d6) δ 513.12 (1H, broad s), 9.82 (1H, s), 8.13 (1H, d, J=8.7 Hz), 7.95 (1H, dd, J=1.5, 8.0 Hz), 7.89 (1H, d, J=16.4 Hz), 7.60 (1H, s), 7.50 (1H, d, J=16.4 Hz), 7.46 (1H, d, J=6.9 Hz), 7.37 (1H, d, J=7.7 Hz), 7.20 (1H, d, J=8.7 Hz), 7.06 (1 H, s), 6.86 (1H, t, J=6.9 Hz), 5.85 (1H, d, J=7.3 Hz), 3.82 (2H, m), 2.50 (3H, s, obscured by dmso), 2.48 (2H, m), 2.34 (3H, s), 2.03 (2H, m), 1.76 (1H, m), 1.59 (2H, m). Anal. Calcd for C28H28N4O3.0.5 KOH: C, 67.72; H, 5.79; N, 11.28.

reactant | 2-[3-[2-(4,6-Dimethyl-pyridin-2-yl)-vinyl]-1-(tetrahydro-pyran-2-yl)-1H-indazol-6-ylamino]-benzoic acid methyl ester | 4.11 mmol, 1.98 g | COC(C1=C(C=CC=C1)NC1=CC=C2C(=NN(C2=C1)C1OCCCC1)C=CC1=NC(=CC(=C1)C)C)=O | C29H30N4O3
reactant | MeOH | 12 ml | CO | CH4O
reactant | Potassium hydroxide | 20.5 mmol, 1.15 g | [OH-].[K+]
solvent | THF | C1CCOC1 | C4H8O
solvent | H2O | 3 ml | O | H2O
product | 2-[3-[2-(4,6-Dimethyl-pyridin-2-yl)-vinyl]-1-(tetrahydro-pyran-2-yl)-1H-indazol-6-ylamino]-benzoic acid | CC1=CC(=NC(=C1)C)C=CC1=NN(C2=CC(=CC=C12)NC1=C(C(=O)O)C=CC=C1)C1OCCCC1 | C28H28N4O3
